US09290465B2
{3-[4-(2-Oxo-2-phenyl-ethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (70 mg, 0.18 mmol) was dissolved in dioxane (1 mL) and treated with 4N HCl in dioxane (1 mL, 4 mmol). After stirring overnight the resulting white solid was removed by filtration and washed with hexanes to yield 2-[4-(4-Amino-isoxazol-3-yl)-phenoxy]-1-phenyl-ethanone hydrochloride as a white solid (34 mg, 64%). MH+=295.0

reactant | {3-[4-(2-Oxo-2-phenyl-ethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 0.18 mmol, 70 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC(C1=CC=CC=C1)=O)=O | C22H22N2O5
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(4-Amino-isoxazol-3-yl)-phenoxy]-1-phenyl-ethanone hydrochloride | 34 mg, 64% | Cl.NC=1C(=NOC1)C1=CC=C(OCC(=O)C2=CC=CC=C2)C=C1 | InChI=1S/C17H14N2O3.ClH/c18-15-10-22-19-17(15)13-6-8-14(9-7-13)21-11-16(20)12-4-2-1-3-5-12;/h1-10H,11,18H2;1H
